US04874792
To an ice-cold solution of 11-hydroxyundecyne (10 g, 59.4 mmoles) in 400 ml of methylene chloride under argon was added in one portion carbon tetrabromide (40.5 g, 0.1224 mole). The reaction mixture was stirred at 0° C. for 5 minutes and triphenylphosphine (29.43 g, 0.1122 mole) was added. The reaction was kept at 0° C. for an additional 15 minutes and stirred at room temperature for 3 hours. The methylene chloride was removed in vacuo. The residue was treated with hexane and the combined organic extract was concentrated in vacuo. The crude product was purified by flash chromatography on silica, eluting with straight hexane, to give 7.2 g (52%) of 11-bromoundecyne as a colorless oil. Following the procedures of Examples 20 and 39(a), a mixture of salicylaldehyde, 11-bromoundecyne and potassium carbonate in dimethylformamide is reacted to furnish 2-(10-undecynyloxy)benzaldehyde.

reactant | 11-hydroxyundecyne | 59.4 mmoles, 10 g | OCCCCCCCCCC#C | C11H20O
reactant | carbon tetrabromide | 0.1224 mole, 40.5 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.1122 mole, 29.43 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 11-bromoundecyne | 7.2 g, 52% | BrCCCCCCCCCC#C | C11H19Br
